US07244729B2
Step 141.4: 4-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6 -yl]-benzoic acid lithium salt
A suspension of 2.87 g (6.7 mMol) of 4-[4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester and 520 mg (12 mMol) LiOH.H2O in 240 ml of dioxane and 5 ml of water is stirred for 24 h at 120° C. The solid is dissolved first, then a new precipitate is formed. Filtration at RT and washing with dioxane and diethylether gives the title compound; HPLC (conditions see Examples 67-78) tR=13.5 min; MS-ES+: (M+H)+=403.

reactant | 4-[4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | 6.7 mMol, 2.87 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC=2C(=C3C=C(NC3=CC2)C)F)N1)=O | C24H19FN4O3
reactant | LiOH.H2O | 12 mMol, 520 mg | O[Li].O
solvent | dioxane | 240 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 4-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6 -yl]-benzoic acid lithium salt | [Li+].FC1=C2C=C(NC2=CC=C1OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C(=O)[O-])C=C2)C | InChI=1S/C22H15FN4O3.Li/c1-11-8-14-16(26-11)6-7-18(19(14)23)30-21-15-9-17(27-20(15)24-10-25-21)12-2-4-13(5-3-12)22(28)29;/h2-10,26H,1H3,(H,28,29)(H,24,25,27);/q;+1/p-1
